US05688949
A suspension of 7-chloropyrazolo[1,5-a]pyrimidine (1.0 g), 3,5-di-t-butyl-4-hydroxyaniline hydrochloride (1.8 g) and diethylaniline (2.3 ml) in toluene (50 ml) is heated at 120° C. for 30 minutes. After cooling, the solvent is distilled off, and the residue is purified by silica gel column chromatography (solvent; CHCl3) to give 7-(3,5-di-t-butyl-4-hydroxyphenyl)aminopyrazolo[1,5-a]pyrimidine (890 mg) as colorless crystal.

reactant | 7-chloropyrazolo[1,5-a]pyrimidine | 1.0 g | ClC1=CC=NC=2N1N=CC2 | C6H4ClN3
reactant | 3,5-di-t-butyl-4-hydroxyaniline hydrochloride | 1.8 g | Cl.C(C)(C)(C)C=1C=C(N)C=C(C1O)C(C)(C)C
reactant | diethylaniline | 2.3 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(3,5-di-t-butyl-4-hydroxyphenyl)aminopyrazolo[1,5-a]pyrimidine | 890 mg | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC1=CC=NC=2N1N=CC2 | C20H26N4O
